US04374248
B. 3-{2-[(2-Aminothiazol-4-yl)methylthio]ethylamino}-4-methylamino-1,2,5-thiadiazole 1,1-dioxide
A solution of 2-[(2-aminothiazol-4-yl)methylthio]ethylamine (from the dihydrochloride, 3.0 g; 11.4 mmoles) [prepared in Step A] in 25 ml of methanol was added dropwise over 1.5 hours to a cold (5°), stirred, partial suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide (2.03 g; 11.4 mmoles) in 55 ml of methanol. After 1.5 hours, anhydrous methylamine was bubbled into the solution for 30 minutes and stirred at 5° for 19 hours. The reaction mixture was evaporated under reduced pressure and the residue placed on 400 g of silica gel and chromatographed using acetone-methylene chloride (7:3). The appropriate fractions were combined and evaporated to give product. Recrystallization from 95% ethanol yielded the title compound, mp 200°-201°.

reactant | 2-[(2-aminothiazol-4-yl)methylthio]ethylamine | NC=1SC=C(N1)CSCCN | C6H11N3S2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | 11.4 mmoles, 2.03 g | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 55 ml | CO | CH4O
product | 3-{2-[(2-Aminothiazol-4-yl)methylthio]ethylamino}-4-methylamino-1,2,5-thiadiazole 1,1-dioxide | NC=1SC=C(N1)CSCCNC1=NS(N=C1NC)(=O)=O | C9H14N6O2S3
